US09290472B2
Iodine (1.91 g) was added in portions to a vigorously stirred, ice cooled suspension of imidazole (0.681 g) and triphenylphosphine (1.97 g) in diethyl ether (12 mL). The mixture was then stirred for 10 minutes before a solution of tert butyl (R)-3-hydroxymethylpyrrolidine-1-carboxylate (1 g) in dioxane (6 mL) was added dropwise. The resulting mixture was stirred at room temperature overnight, then diluted with diethyl ether and filtered. The solid was washed with diethyl ether and the combined filtrate was evaporated to dryness. The residue was purified by chromatography on silica, eluting with a mixture of ethyl acetate and pentane with a gradient of 0-20% to give tert-butyl (R)-3-iodomethylpyrrolidine-1-carboxylate (1.44 g) as an oil.

reactant | Iodine | 1.91 g | II | I2
reactant | imidazole | 0.681 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 1.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert butyl (R)-3-hydroxymethylpyrrolidine-1-carboxylate | 1 g | OC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO3
solvent | diethyl ether | 12 mL | C(C)OCC | C4H10O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (R)-3-iodomethylpyrrolidine-1-carboxylate | 1.44 g | IC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H18INO2
